US04946926
An amount of 3-(4'-hydroxyphenoxy)benzoic acid (9.772 g, 42.45 millimoles (mmoles)) was dissolved in 6 M NaOH (18 ml, 108 mmoles) and cooled in an ice bath. Acetic anhydride (8.0 ml, 11.1 g, 109 mmoles) was added cautiously to the basic solution at such a rate as to maintain 0° to 5° C. and then stirred vigorously for an additional 15 minutes (min) at 0° C. The reaction mixture was then allowed to warm to room temperature over 1 hour. The aqueous solution was acidified with 6 M HCl (18 ml, 108 mmoles) and extracted with 75 ml of ethyl acetate. The organic solution was washed three times with a 50 ml saturated solution of NaCl, dried with MgSO4, filtered, and solvent evaporated. The crude product was taken up in methanol, treated with activated carbon, filtered through a celite pad, and evaporated. Recrystallization of the product gave 9.83 g of 3-(4'-acetoxyphenoxy)benzoic acid as an off-white powder with a m.p. 141° C. to 143° C.

reactant | 3-(4'-hydroxyphenoxy)benzoic acid | 42.45 millimoles, 9.772 g | OC1=CC=C(OC=2C=C(C(=O)O)C=CC2)C=C1 | C13H10O4
reactant | NaOH | 108 mmoles, 6 M, 18 ml | [OH-].[Na+]
reactant | Acetic anhydride | 109 mmoles, 8.0 ml, 11.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | HCl | 108 mmoles, 6 M, 18 ml | Cl | ClH
product | 3-(4'-acetoxyphenoxy)benzoic acid | 9.83 g | C(C)(=O)OC1=CC=C(OC=2C=C(C(=O)O)C=CC2)C=C1 | C15H12O5
